### PR TITLE
Base the definitions of bridges, loss servers, and duplication servers on distributors

### LINKED ISSUE #130: Base the definitions of bridges, loss servers, and duplication servers on distributors
Currently bridges, loss servers, and duplication servers are defined directly on top of multi-receivers. However, as we know, these can be considered special kinds of distributors.

Our goal is to modify the definitions of bridges, loss servers, and duplication servers such that they are based on distributors.

### PR DESCRIPTION
**Pull request by javierdiaz72**
This resolves #130.

### CODE REVIEW

File: Isabelle/Chi_Calculus/Communication.thy [hunk 1]
```diff
@@ -77,11 +77,14 @@ lemma context_localization:
   shows "a \<triangleright>\<^sup>\<infinity> x. P x \<parallel> b \<triangleright>\<^sup>\<infinity> x. Q x \<approx>\<^sub>\<flat> a \<triangleright>\<^sup>\<infinity> x. P x \<parallel> b \<triangleright>\<^sup>\<infinity> x. (a \<triangleright>\<^sup>\<infinity> x. P x \<parallel> Q x)"
   sorry
 
+abbreviation distributor :: "[chan, chan list] \<Rightarrow> process" (infix "\<Rightarrow>" 100) where
```
Comment (jeltsch) [inline Isabelle/Chi_Calculus/Communication.thy]: Indeed, we have to move `distributor` into `Communication` in order to base `loss` and `duplication` on it. What about moving also all other things currently in `Relaying` to `Communication`?

File: Isabelle/Chi_Calculus_Examples/Diamond.thy [hunk 2]
```diff
@@ -194,26 +194,13 @@ proof -
     sorry
   then have "a \<triangleright>\<^sup>\<infinity> x. \<Prod> c\<leftarrow>[b]. c \<triangleleft> x \<approx>\<^sub>\<flat> a \<triangleright>\<^sup>\<infinity> x. b \<triangleleft> x"
     by (simp add: basic_weak_multi_receive_preservation)
-  then show ?thesis .
+  then show ?thesis
+    by simp
```
Comment (jeltsch) [inline Isabelle/Chi_Calculus_Examples/Diamond.thy]: Why did you replace `.` with `by simp`?

File: Isabelle/Chi_Calculus_Examples/Diamond.thy [hunk 3]
```diff
@@ -194,26 +194,13 @@ proof -
...
-    using context_localization sorry
-  also have "a \<leftrightarrow> b \<parallel> c \<triangleright>\<^sup>\<infinity> x. (a \<leftrightarrow> b \<parallel> a \<triangleleft> x) \<approx>\<^sub>\<flat> a \<leftrightarrow> b \<parallel> c \<triangleright>\<^sup>\<infinity> x. (a \<leftrightarrow> b \<parallel> b \<triangleleft> x)"
-    using send_channel_switch and basic_weak_multi_receive_preservation sorry
-  also have "a \<leftrightarrow> b \<parallel> c \<triangleright>\<^sup>\<infinity> x. (a \<leftrightarrow> b \<parallel> b \<triangleleft> x) \<approx>\<^sub>\<flat> a \<leftrightarrow> b \<parallel> c \<triangleright>\<^sup>\<infinity> x. (a \<rightarrow> b \<parallel> b \<triangleleft> x)"
-    using context_localization sorry
-  also have "a \<leftrightarrow> b \<parallel> c \<triangleright>\<^sup>\<infinity> x. (a \<rightarrow> b \<parallel> b \<triangleleft> x) \<approx>\<^sub>\<flat> a \<leftrightarrow> b \<parallel> c \<rightarrow> b"
-    using context_localization sorry
-  finally show ?thesis .
-qed
+  using target_switch by blast
```
Comment (jeltsch) [inline Isabelle/Chi_Calculus_Examples/Diamond.thy]: Isn’t `singleton_distributor_switch` the same as `target_switch` now? If yes, we could replace `by blast` with `.`. However, it would actually be better then to drop `singleton_distributor_switch` and use `target_switch` instead of it.

File: Isabelle/Chi_Calculus_Examples/Diamond.thy [hunk 4]
```diff
@@ -237,7 +224,8 @@ proof -
     using context_localization sorry
   also have "\<currency>\<^sup>*a \<parallel> b \<triangleright>\<^sup>\<infinity> x. (\<currency>\<^sup>+a \<parallel> a \<triangleleft> x) \<approx>\<^sub>\<flat> \<currency>\<^sup>*a \<parallel> b \<triangleright>\<^sup>\<infinity> x. a \<triangleleft> x"
     using context_localization sorry
-  finally show ?thesis .
+  finally show ?thesis
+    sorry
```
Comment (jeltsch) [inline Isabelle/Chi_Calculus_Examples/Diamond.thy]: Why doesn’t `.` work anymore?

**Comment by jeltsch** [comment]
In many places you replaced `simp` by `blast`. What’s the reason for that?

File: Isabelle/Chi_Calculus_Examples/Diamond.thy (hunk 2 above)
Comment (javierdiaz72) [reply Isabelle/Chi_Calculus_Examples/Diamond.thy]: Because suddenly `.` stopped working, I guess it has to do with the new definitions.

File: Isabelle/Chi_Calculus_Examples/Diamond.thy (hunk 3 above)
Comment (javierdiaz72) [reply Isabelle/Chi_Calculus_Examples/Diamond.thy]: Right.

File: Isabelle/Chi_Calculus_Examples/Diamond.thy (hunk 4 above)
Comment (javierdiaz72) [reply Isabelle/Chi_Calculus_Examples/Diamond.thy]: Suddenly `.` stopped working, I guess it has to do with the new definitions.

**Comment by javierdiaz72** [comment]
> In many places you replaced `simp` by `blast`. What’s the reason for that?

Because `simp` suddently stopped working, I guess it has to do with the new definitions.

File: Isabelle/Chi_Calculus/Communication.thy (hunk 1 above)
Comment (javierdiaz72) [reply Isabelle/Chi_Calculus/Communication.thy]: Sounds good!

File: Isabelle/Chi_Calculus/Relaying.thy [hunk 5]
```diff
@@ -40,7 +40,7 @@ proof -
   have "a \<leftrightarrow> b \<parallel> b \<rightarrow> a \<sim>\<^sub>\<flat> b \<leftrightarrow> a \<parallel> b \<rightarrow> a"
     using basic.bisimilarity_transitivity_rule parallel_associativity parallel_commutativity by blast
   also have "b \<leftrightarrow> a \<parallel> b \<rightarrow> a \<sim>\<^sub>\<flat> b \<leftrightarrow> a"
-    by (simp add: forward_bridge_absorption)
+    using forward_bridge_absorption by blast
```
Comment (jeltsch) [inline Isabelle/Chi_Calculus/Relaying.thy]: In this particular case, you can actually replace `by blast` with `.`.

However, why doesn’t `simp` work anymore? Because `distributor` uses `∏`, and `∏`-terms are expanded by `simp` since `general_parallel.simps` is part of the simpset (you can see this effect by looking at the goal left over by `simp`). The unexpanded left-hand side of `forward_bridge_absorption` doesn’t match the expanded left-hand side of the goal. If we expand `forward_bridge_absorption` as well, `simp` works again. We can expand it by making it a chained fact; so `using forward_bridge_absorption by simp` works.

That said, the proper way to prove such goal these days is to use the `equivalence` method. Could you please check whether using `equivalence` works in the other places where the former `simp` applications don’t work anymore?

For the proof above we shouldn’t use `equivalence` though, since, as I wrote above, a simple `.` is enough.

File: Isabelle/Chi_Calculus_Examples/Diamond.thy (hunk 2 above)
Comment (jeltsch) [reply Isabelle/Chi_Calculus_Examples/Diamond.thy]: Well, this particular lemma should be removed anyhow. 🙂

Comment (jeltsch) [reply Isabelle/Chi_Calculus_Examples/Diamond.thy]: That said, it’s clear why `.` doesn’t work here anymore: the right-hand side of the chained fact is the old expansion of `a → b`, not the new one.

File: Isabelle/Chi_Calculus_Examples/Diamond.thy (hunk 4 above)
Comment (jeltsch) [reply Isabelle/Chi_Calculus_Examples/Diamond.thy]: This seems to be the same kind of issue I discussed [above](https://github.com/input-output-hk/fm-ouroboros/pull/131#discussion_r310252126).
